* 5E6-A (Tweed Bassman-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5E6-A
* (A-EE) drawing's component values (see meta.yaml); no drawing reproduced.
*
* DC conventions: B+1 driven at the printed +420 V. The drawing also reads
* +410/+405 V at nearby points on what is otherwise the same node — three
* separate 16uF/450V filter caps sit at slightly different physical points
* along a low-impedance rail with no choke or dropping resistor between them
* (6L6G plates, screens, and the OT centre tap all land here directly) — the
* three readings are treated as one lumped node here, +420 V taken as the
* first-filter figure. Downstream nodes DERIVED through the two printed 10k
* droppers. No choke on this drawing at all (unlike 5F6/5F6-A/5F4's 14684).
*
* Bias supply replaced by an ideal -42 V source (its selenium/3300R/100uF/56k
* network is AC/ripple filtering; the printed sign is not clearly legible in
* the archived scan — read as negative for consistency with every other
* fixed-bias amp in this family; see notes.md).
*
* The two 5U4GA rectifier tubes are NOT instantiated: like every other amp in
* this corpus, the DC model treats the rectifier + PT as an ideal B+ source
* (rectifier forward-drop/sag is not a DC-operating-point claim). Output
* tubes are drawn "6L6G"; the 6L6-family 5881 model stands in for them, the
* same convention amps/5f4 already established (see reference/tubes/6l6g.yaml).
*
* Tone-stack network (Presence/Bass/Treble) is DC-open and abstracted as a
* single 1 MEG grid leak at each of V2's and V3's grids, the same treatment
* amps/5f6a gives its own tone ladder — the network's own resistors return
* every leg to a DC-defined point (pot lugs, ground), so no grid current
* flows through it regardless of control settings.
.include models/12ay7.inc
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 420
VBIAS NBIAS 0 DC -42

* rail: 10k -> V3/PI supply node, 10k -> preamp supply node (no choke here)
RD1 BP1 BP2 10k
RD2 BP2 BP3 10k

* V1 12AY7 — two-channel input, shared 820R cathode (250uF/6V bypass).
* No grid stoppers on this drawing (unlike the 5F6/5F6-A's 68k).
RL1 BP3 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP3 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820
C1 KAY 0 250u

* V2 12AY7 — single-section extra gain stage (the second physical 12AY7 on
* the A-EE drawing; only one triode section is wired). Grid returns to
* ~ground: the two channels' 1M leaks + 270k mixers reach ground through the
* volume pots at DC, modeled here as a single 1meg leak (same treatment as
* 5f6a's V2A).
RL3 BP3 P2A 100k
XV2A P2A G2A K2A 12AY7
RG3 G2A 0 1meg
RK2 K2A 0 1500
C2 K2A 0 25u

* V3 12AX7 — self-biased split-load (cathodyne) phase inverter, the same
* shape as the 5F4's V3B (which this corpus has already verified converges
* sensibly in ngspice): plate 56k; cathode split into 1.5k, between the
* cathode pin KPI and the junction JPI, then 56k from JPI to ground — so JPI
* sits only slightly below KPI (the small 1.5k drop), not near ground; the
* grid leak (1 MEG) returns to JPI, giving the tube a small, self-consistent
* negative bias rather than the ~-70 V a naive "JPI near ground" reading
* would imply (physically impossible for a 12AX7 — an earlier draft of this
* netlist tried exactly that reading, from a misassigned printed figure, and
* ngspice drove the tube to near cutoff, which is how the mistake was caught;
* see voltages.yaml for why PPI/KPI/JPI are left informational this pass
* rather than asserted against a specific misassigned reading). Only one of
* the 12AX7's two triode sections is wired on this drawing (the other is not
* shown connected). The Presence/Bass/Treble ladder ahead of it is DC-open
* (see header), so the grid's actual DC reference is the JPI junction
* regardless of pot settings.
RLA BP2 PPI 56k
XV3A PPI GPI KPI 12AX7
RGPI GPI JPI 1meg
RTAIL KPI JPI 1.5k
RT2 JPI 0 56k

* Cathodyne -> 6L6G grids: 0.1u coupling caps (DC-open) + 1.5k grid stoppers.
* PPI (the plate output) drives V4's grid; KPI (the cathode output) drives
* V5's — the split-load's two anti-phase outputs.
C5 PPI NG51 0.1u
R5s NG51 G51 1.5k
C6 KPI NG52 0.1u
R6s NG52 G52 1.5k

* 6L6G pair (drawn "6L6G" on the sheet; simulated as 5881 — see header).
* Fixed bias via 220k leaks from the -42 V supply. No screen resistors and no
* choke on this drawing: screens tied straight to B+1 alongside the plates.
RGL1 NBIAS G51 220k
XV4 BP1 BP1 G51 0 5881
RGL2 NBIAS G52 220k
XV5 BP1 BP1 G52 0 5881
